### PR TITLE
Proof of Lambek's lemma

### PR DESCRIPTION
**Pull request by mortberg**
- Proof of Lambek's lemma: If (A,a) is an initial F-algebra then a is an iso
- Notation for precategory_FunctorAlg and make the precategory implicit in FunctorAlg.

### CODE REVIEW

File: UniMath/CategoryTheory/FunctorAlgebras.v [hunk 1]
```diff
@@ -280,8 +281,41 @@ Proof.
...
+
+Local Definition AaInitial : Initial (FunctorAlg F hsC) := tpair _ _ AaIsInitial.
+
+Local Notation A := (alg_carrier _ Aa).
+Local Notation a := (alg_map _ Aa).
+
+(* (FA,Fa) is an F-algebra *)
+Local Definition FAa : algebra_ob F := tpair (λ X, C ⟦F X,X⟧) (F A) (# F a).
+
+Lemma initialAlg_is_iso : is_iso a.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/FunctorAlgebras.v]: In this lemma, please use the projections instead of destructing the pairs. You will get better computation that way.

File: UniMath/CategoryTheory/FunctorAlgebras.v [hunk 2]
```diff
@@ -280,8 +281,41 @@ Proof.
...
+Proof.
+case (AaIsInitial FAa); simpl; intros Fa' HFa'.
+destruct Fa' as [a' Ha']; unfold is_algebra_mor in Ha'; simpl in *.
+assert (Ha'a : a' ;; a = identity A).
+  assert (algMor_a'a : is_algebra_mor _ _ _ (a' ;; a)).
+    unfold is_algebra_mor.
+    now rewrite functor_comp, <- Ha', assoc.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/FunctorAlgebras.v]: Can you hide the terms produced via "rewrite"?

**Comment by mortberg** [comment]
Done. I think I haven't hidden too much of the term now.

File: UniMath/CategoryTheory/FunctorAlgebras.v (hunk 2 above)
Comment (mortberg) [inline UniMath/CategoryTheory/FunctorAlgebras.v]: See my patch below.

**Comment by benediktahrens** [comment]
Also, when you change the status of arguments in a file, you need to adapt the whole of UniMath to it, in particular, SubstitutionSystems.

**Comment by mortberg** [comment]
Ah yes of course, and travis of course reported it. Anyway, should I wait for your patch on SubstitutionSystems to be merged and then rebase and patch with my changes?

**Comment by benediktahrens** [comment]
On 10/21/2015 11:55 AM, Anders Mörtberg wrote:
> Ah yes of course, and travis of course reported it. Anyway, should I
> wait for your patch on SubstitutionSystems to be merged and then
> rebase and patch with my changes?

Yes, sounds good.
Feel free to review my PR, btw.
